US09284278B2
Starting from 2-aminothiophenol and 4-dimethylamino-2-nitro-benzaldehyde, (4-benzthiazol-2-yl-3-nitro-phenyl)-dimethylamin is prepared in analogy to the procedure described in example 1 of DE-A-2333378. b) In a 250 ml three-necked flask equipped with magnetic stirrer, thermometer, reflux condenser and nitrogen inlet, 15.25 g of (78.8 mmol) anhydrous tin(II) chloride are dissolved in 40 ml of 37% hydrochloric acid, and 6.94 g (23.2 mmol) of (4-benzthiazol-2-yl-3-nitro-phenyl)-dimethylamin (product of part a) are added with stirring. The thick, red suspension heats up to 100° C. The internal temperature is kept at 60° C. for the following 5 hours. After cooling, the reaction mixture is adjusted to pH 14 by addition of 180 ml of a 4N solution of sodium hydroxid, and stirring is continued for another 30 minutes. After filtration, the residue is washed three times with 50 ml of water and dried over night at 50° C. and 25 mbar, yielding 6.49 g of crude 4-benzthiazol-2-yl-N,N-dimethyl-benzene-1,3-diamin, which is used for the subsequent step without further purification. c) Into a 250 ml three-necked flask equipped with magnetic stirrer, thermometer and nitrogen inlet, 6.20 g (23.0 mmol) of crude 4-benzthiazol-2-yl-N,N-dimethyl-benzene-1,3-diamin (product of part b) in 65 ml of pyridine are introduced and cooled to 3° C. with stirring. 3.19 g (27.6 mmol) of methansulfochloride are added dropwise within 30 Minuten using a syringe, then the ice bath is removed and the black solution is stirred over night at room temperature. The reaction mixture is then poured dropwise into 700 ml of ice water; the reddish brown suspension thus obtained is stirred for 20 minutes, filtered, the residue washed 3 times with 100 ml of ice water, and dried over night at 50° C. and 25 mbar. 7.50 g of the title product are obtained.

reactant | 2-aminothiophenol | NC1=C(C=CC=C1)S | C6H7NS
reactant | 4-dimethylamino-2-nitro-benzaldehyde | CN(C1=CC(=C(C=O)C=C1)[N+](=O)[O-])C | C9H10N2O3
reactant | (4-benzthiazol-2-yl-3-nitro-phenyl)-dimethylamin | S1C(=NC2=C1C=CC=C2)C2=C(C=C(C=C2)N(C)C)[N+](=O)[O-] | C15H13N3O2S
reactant | tin(II) chloride | 78.8 mmol, 15.25 g | [Sn](Cl)Cl
reactant | (4-benzthiazol-2-yl-3-nitro-phenyl)-dimethylamin | 23.2 mmol, 6.94 g | S1C(=NC2=C1C=CC=C2)C2=C(C=C(C=C2)N(C)C)[N+](=O)[O-] | C15H13N3O2S
reactant | sodium hydroxid | [OH-].[Na+]
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 4-benzthiazol-2-yl-N,N-dimethyl-benzene-1,3-diamin | 6.49 g | S1C(=NC2=C1C=CC=C2)C2=C(C=C(C=C2)N(C)C)N | C15H15N3S
